US06861192B2
Preparation of N,N,N′,N′-tetrakis(2-hydroxyethyl)sebacamide
A mixture of 57.58 g (0.25 mol) dimethyl sebacate and 157.71 g (1.50 mol) of diethanolamine was heated in a 140° C. bath under nitrogen for 2.5 hrs while collecting the methanol condensate. The reaction mixture was subsequently heated in a 200° C. at reduced pressure (1.5 mm) to distill off excess diethanolamine. The highly viscous oily residue was dissolved in an equal volume of acetone and stirred overnight. The resulting crystalline solid was collected, washed with acetone, and dried. The yield of product was 35.0 g (9.3% of theory); mp=87-98° C.

reactant | dimethyl sebacate | 0.25 mol, 57.58 g | C(CCCCCCCCC(=O)OC)(=O)OC | C12H22O4
reactant | diethanolamine | 1.50 mol, 157.71 g | N(CCO)CCO | C4H11NO2
product | N,N,N′,N′-tetrakis(2-hydroxyethyl)sebacamide | OCCN(C(CCCCCCCCC(=O)N(CCO)CCO)=O)CCO | C18H36N2O6
